US03996233
d. 7-Butylamino-3,5-dimethyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid ethyl ester
2.5 g. of 7-chloro-3,5-dimethyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid ethyl ester is refluxed for 10 minutes with 10 ml. of butylamine. The excess butylamine is removed and the residue dissolved in ether. The mixture is filtered and cooled. The 7-butylamino-3,5-dimethyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid ethyl ester precipitates and is recrystallized from petroleum ether, yield 78%, m.p. 62°-63°.

reactant | 7-chloro-3,5-dimethyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=NC1C)N(C=N2)C)Cl | C11H12ClN3O2
reactant | butylamine | C(CCC)N | C4H11N
product | 7-Butylamino-3,5-dimethyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid ethyl ester | yield 78% | C(C)OC(=O)C=1C(=C2C(=NC1C)N(C=N2)C)NCCCC | C15H22N4O2
